US07977332B2
Step A—Synthesis of (tert-butoxy)-N-(2-{[(4-methoxyphenyl)methyl]amino}-ethyl)carboxamide as an intermediate
This compound was made in a manner analogous to that set forth in Step D of Example 5, using 3.0 grams (0.022 mole) of 4-methoxybenzaldehyde, 3.6 grams (0.022 mole) of N-(2-aminoethyl)(tert-butoxy)carboxamide (known compound), 7.0 grams (0.033 mole) of sodium triacetoxyborohydride and 5.3 grams (0.044 mole) of magnesium sulfate in 30 mL of 1,2-dichloroethane. The reaction product was purified with column chromatography on silica gel. Elution was accomplished using mixtures of 2% to 5% methanol in methylene chloride as eluants. Appropriate fractions were combined and concentrated under reduced pressure, yielding 0.72 gram of the subject compound. The NMR spectrum was consistent with the proposed structure. The reaction was repeated to obtain additional material.

reactant | 4-methoxybenzaldehyde | 0.022 mole, 3.0 grams | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | N-(2-aminoethyl)(tert-butoxy)carboxamide | 0.022 mole, 3.6 grams | NCCNC(=O)OC(C)(C)C | C7H16N2O2
reactant | sodium triacetoxyborohydride | 0.033 mole, 7.0 grams | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | magnesium sulfate | 0.044 mole, 5.3 grams | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
product | (tert-butoxy)-N-(2-{[(4-methoxyphenyl)methyl]amino}-ethyl)carboxamide | 0.72 gram | C(C)(C)(C)OC(=O)NCCNCC1=CC=C(C=C1)OC | C15H24N2O3
